US05693807
In the course of 1.5 hours, at 5°, 16 g of bromine are added dropwise to a solution of 50 g of [(2-hydroxy-5-methoxy-phenyl)methyl]-triphenyl-phosphonium bromide in 11 of methanol. The solution is then concentrated in vacuo at 20° to 130 ml, 250 ml of ethyl acetate are added thereto in the course of 2 hours, the resulting yellow suspension is stirred for 2 hours at 0°, and the slightly yellow crystals are filtered off with suction and recrystallised from methanol. [(3-Bromo-2-hydroxy-5-methoxy-phenyl)-methyl]-triphenyl-phosphonium bromide is thus obtained in the form of colourless crystals [m.p.: 259°; IR (KBr): 2875, 1585, 1565, 1415, 1325, 1200, 1165, 1150 cm-1 ; 1H-NMR (360 MHz), DMSO-d6); 3.43 (s, 3H, OCH3), 5.03 (d, 2H, CH2P+), 6.42 (dd, 1H), 7.08 (dd, 1H, 7.61 to 7.80 (m, 12H), 7.92 (m, 3H), 9.00 (br, s, 1H, OH) ppm]; yield 76% of the theoretical yield

reactant | bromine | 16 g | BrBr | Br2
reactant | [(2-hydroxy-5-methoxy-phenyl)methyl]-triphenyl-phosphonium bromide | 50 g | [Br-].OC1=C(C=C(C=C1)OC)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | methanol | CO | CH4O
product | [(3-Bromo-2-hydroxy-5-methoxy-phenyl)-methyl]-triphenyl-phosphonium bromide | yield 76% | [Br-].BrC=1C(=C(C=C(C1)OC)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | InChI=1S/C26H22BrO2P.BrH/c1-29-21-17-20(26(28)25(27)18-21)19-30(22-11-5-2-6-12-22,23-13-7-3-8-14-23)24-15-9-4-10-16-24;/h2-18H,19H2,1H3;1H
